US07109229B2
(c) Methyl 2-(6-ethyl-1H-indol-3-yl)oxoacetate
A 2.0 M solution of oxalyl chloride in methylene chloride (4.75 mL, 9.6 mmol) was added to a solution of 6-ethylindole (1.39 g, 9.6 mmol) in ether (20 mL) dropwise over 10 min at 4° C. under N2. The ice bath was removed and the resulting mixture was stirred for 2 h. A 25% sodium methoxide in methanol solution (4.3 mL, 18.8 mmol) was added at −78° C. over 5 min. The mixture was allowed to warm up to room temperature and stirred for 1 h. The reaction was quenched with water (10 mL), filtered and rinsed with cold ether to afford the title compound (1.34, 72%) as a yellow solid. 1H NMR (CDCl3) δ 9.07 (bs, 1H), 8.43 (m, 1H), 8.32 (m, 1H), 7.29–7.21 (m, 2H), 3.95 (m, 3H), 2.78 (m, 2H), 1.29 (m, 3H).

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylene chloride | 9.6 mmol, 4.75 mL | C(Cl)Cl | CH2Cl2
reactant | 6-ethylindole | 9.6 mmol, 1.39 g | C(C)C1=CC=C2C=CNC2=C1 | C10H11N
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 18.8 mmol, 4.3 mL | CO | CH4O
solvent | ether | 20 mL | CCOCC | C4H10O
product | Methyl 2-(6-ethyl-1H-indol-3-yl)oxoacetate | 72% | C(C)C1=CC=C2C(=CNC2=C1)C(C(=O)OC)=O | C13H13NO3
